US09029409B2
A solution of ((2S,5S)-5-vinyl-1,4-dioxan-2-yl)methyl 4-methylbenzenesulfonate (2.0 g, 6.70 mmol, Preparation #11) and tetrabutylammonium acetate (2.63 g, 8.71 mmol) in dimethylformamide (5 mL) were heated at about 70° C. for about 3 h. The reaction mixture was cooled to RT and the reaction vessel was charged sequentially with water (2 mL) and 1.0 N aqueous sodium hydroxide (4.0 mL). After stirring for about 20 min at RT, the mixture was diluted with EtOAc with (20 mL) and washed with brine solution (2×20 mL). The organic layer was dried over sodium sulphate and concentrated under reduced pressure. The crude material obtained was purified by column chromatography eluting with 30-40% EtOAc in hexane. The relevant fractions containing product were combined and concentrated to afford ((2R,5S)-5-vinyl-1,4-dioxan-2-yl)methanol. 0.7 g (72.4%). 1H NMR (400 MHz, CDCl3): δ 5.77-5.68 (m, 1H), 5.38-5.22 (m, 2H), 4.04-3.99 (m, 1H), 3.86-3.81 (m, 2H), 3.68-3.52 (m, 4H), 3.44-3.38 (m, 1H); IR (Neat):3433 cm−1 (OH str)

reactant | ((2S,5S)-5-vinyl-1,4-dioxan-2-yl)methyl 4-methylbenzenesulfonate | 6.70 mmol, 2.0 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1OC[C@@H](OC1)C=C | C14H18O5S
reactant | water | 2 mL | O | H2O
reactant | sodium hydroxide | 1.0 N, 4.0 mL | [OH-].[Na+]
catalyst | tetrabutylammonium acetate | 8.71 mmol, 2.63 g | C(C)(=O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ((2R,5S)-5-vinyl-1,4-dioxan-2-yl)methanol | C(=C)[C@@H]1OC[C@H](OC1)CO | C7H12O3
